US09315542B2
Benzyl 2-(4-((((2R,4S)-4-amino-2-hydroxy-2,6-dimethyl-3-oxoheptyl)oxy)sulfonyl)-3,5-dimethylphenoxy)acetate (7)
Referring to FIG. 37, to a solution of benzyl 2-(4-((((2R,4S)-4-((tert-butoxycarbonyl)amino)-2-hydroxy-2,6-dimethyl-3-oxoheptyl)oxy)sulfonyl)-3,5-dimethylphenoxy)acetate (540 mg, 0.87 mmol) in DCM (15 mL) was added TFA (5 mL). The reaction mixture was stirred at room temperature for 3 h. Removal of the solvent under reduced pressure gave product, which was used directly in the next step without further purification. LC-MS analysis confirmed the structure.

reactant | benzyl 2-(4-((((2R,4S)-4-((tert-butoxycarbonyl)amino)-2-hydroxy-2,6-dimethyl-3-oxoheptyl)oxy)sulfonyl)-3,5-dimethylphenoxy)acetate | 0.87 mmol, 540 mg | C(C)(C)(C)OC(=O)N[C@H](C([C@](COS(=O)(=O)C1=C(C=C(OCC(=O)OCC2=CC=CC=C2)C=C1C)C)(C)O)=O)CC(C)C | C31H43NO10S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | Benzyl 2-(4-((((2R,4S)-4-amino-2-hydroxy-2,6-dimethyl-3-oxoheptyl)oxy)sulfonyl)-3,5-dimethylphenoxy)acetate | N[C@H](C([C@](COS(=O)(=O)C1=C(C=C(OCC(=O)OCC2=CC=CC=C2)C=C1C)C)(C)O)=O)CC(C)C | C26H35NO8S
